US09388189B2
N-(4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide
4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (500 mg, 2.14 mmol) was treated with methanesulfonyl chloride (162 μl, 2.10 mmol) according to the method described in Preparation 15b to give 550 mg (83% yield) of the title compound. Purity 98%.

reactant | 4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 2.14 mmol, 500 mg | CC1=C(C=C(N)C=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | methanesulfonyl chloride | 2.10 mmol, 162 μl | CS(=O)(=O)Cl | CH3ClO2S
product | N-(4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 550 mg, 83% yield | CC1=C(C=C(C=C1)NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C14H22BNO4S
